US06414126B1
A. 5-Bromo-2-methoxy-4′-ethylbenzhydrol
To a stirred −78° solution of p-bromoethylbenzene (2.03 g, 11 mmol) in 10 mL of dry THF under Ar was added 5 mL of 2.5 M n-BuLi (12 mmol) in hexane over 10 min. The temperature was allowed to rise to −10° over 2 hr whereupon the reaction was cooled to −78° before adding solid 5-bromo-2-methoxybenzaldehyde (2.15 g, 10 mmol). After stirring overnight at 20°, the reaction was quenched with saturated aq. NH4Cl and diluted 5 fold with H2O prior to 3 extractions with EtOAc. The combined EtOAc fractions were washed with brine and dried over Na2SO4. After concentration using a rotary evaporator, the residue was chromatographed on silica gel using 10% EtOAc/hexane to elute 1.44 g of 5-bromo-2-methoxy-4′-ethylbenzhydrol.

reactant | p-bromoethylbenzene | 11 mmol, 2.03 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | n-BuLi | 12 mmol, 2.5 M, 5 mL | [Li]CCCC
reactant | 5-bromo-2-methoxybenzaldehyde | 10 mmol, 2.15 g | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-Bromo-2-methoxy-4′-ethylbenzhydrol | BrC=1C=CC(=C(C(C2=CC=C(C=C2)CC)O)C1)OC | C16H17BrO2
